US06528525B1
6-(4-Fluorophenyl)nicotinic acid
In a similar manner to that described in Example 2, a reaction was carried out using methyl 6-(4-fluorophenyl)nicotinate (390 mg) and aqueous sodium hydroxide solution (1N, 5.00 ml) and the reaction mixture was treated to afford the title compound (345 mg) as a pale yellow solid.

reactant | methyl 6-(4-fluorophenyl)nicotinate | 390 mg | FC1=CC=C(C=C1)C1=NC=C(C(=O)OC)C=C1 | C13H10FNO2
reactant | sodium hydroxide | 1N, 5.00 ml | [OH-].[Na+]
product | 6-(4-Fluorophenyl)nicotinic acid | 345 mg | FC1=CC=C(C=C1)C1=NC=C(C(=O)O)C=C1 | C12H8FNO2
